US06110967
Ethyl 2-amino-4-thiazole-acetate (5.0 g, 26.8 mmol) and triethylamine (3.8 ml, 26.8 mmol) were dissolved in a dichloromethane (20 ml). Di-t-butyl carbonate (7.0 g, 32.2 mmol) was added to the solution under cooling with ice water. The mixture was stirred overnight at room temperature. After 18 hours, additional di-t-butyl carbonate (1.4 g, 13.4 mmol) was added, and the resultant mixture was stirred at room temperature for 6 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, and the resultant residue was dissolved in ethyl acetate, washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was subjected to column chromatography on silica gel (hexane:ethyl acetate=3:1) to obtain 3.1 g of ethyl 2-t-butoxycarbonylamino-4-thiazole-acetate. A part (2.0 g, 7.0 mmol) of this compound was dissolved in a mixed solvent of ethanoltetrahydrofuran (3:2, 50 ml). Lithium chloride (592 mg, 14.0 mmol) and sodium borohydride (528 mg, 14.0 mmol) were added to the solution at room temperature, and the mixture was stirred at room temperature for 6 hours. After 6 hours, sodium borohydride (530 mg, 14.1 mmol) and lithium chloride (592 mg, 14.0 mmol) were additionally added, and the resultant mixture was stirred further for 3 hours at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water, diluted hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate, water and saturated brine in that order, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to column chromatography on silica gel (hexane:ethyl acetate=1:1 to 2:3) to obtain 959 mg of the title compound (oil).

reactant | Ethyl 2-amino-4-thiazole-acetate | 26.8 mmol, 5.0 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | triethylamine | 26.8 mmol, 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | Di-t-butyl carbonate | 32.2 mmol, 7.0 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | di-t-butyl carbonate | 13.4 mmol, 1.4 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 2-t-butoxycarbonylamino-4-thiazole-acetate | 3.1 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)CC(=O)OCC | C12H18N2O4S
